US08026270B2
Ethyl (3-chloro-4-{9-(ethyloxy)-1-oxo-4-[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate-Ethyl (3-chloro-4-{4-(ethyloxy)-1-oxo-9-[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate
To a solution of ethyl (3-chloro-4-{4-(ethyloxy)-1-hydroxy-3-oxo-9-[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate-ethyl (3-chloro-4-{4-(ethyloxy)-3-hydroxy-1-oxo-9-[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate (0.163 g, 0.30 mmol) in trifluoroacetic acid (5 ml) cooled to 0° C., was added triethylsilane (0.07 ml, 0.45 mmol). Stirring continued at 0° C. for 10 minutes and then the mixture was evaporated. The isomers were separated using MDAP (shallow gradient)

reactant | ethyl (3-chloro-4-{4-(ethyloxy)-1-hydroxy-3-oxo-9-[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate ethyl (3-chloro-4-{4-(ethyloxy)-3-hydroxy-1-oxo-9-[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate | 0.30 mmol, 0.163 g | ClC=1C=C(C=CC1N1C(C=2C(=C3C(=C(C2C1O)OCC(F)(F)F)C=CC=C3)OCC)=O)CC(=O)OCC.ClC=1C=C(C=CC1N1C(C=2C(=C3C(=C(C2C1=O)OCC(F)(F)F)C=CC=C3)OCC)O)CC(=O)OCC | 2C26H23ClF3NO6
reactant | triethylsilane | 0.45 mmol, 0.07 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Ethyl (3-chloro-4-{9-(ethyloxy)-1-oxo-4-[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate Ethyl (3-chloro-4-{4-(ethyloxy)-1-oxo-9-[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate | ClC=1C=C(C=CC1N1CC=2C(=C3C(=C(C2C1=O)OCC)C=CC=C3)OCC(F)(F)F)CC(=O)OCC.ClC=1C=C(C=CC1N1CC=2C(=C3C(=C(C2C1=O)OCC(F)(F)F)C=CC=C3)OCC)CC(=O)OCC | 2C26H23ClF3NO5
